US05318966
4.0 g (0.01525 mol) of ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate were dissolved in 80 ml of toluene, 1.98 ml (0.01525 mol) of aminomethyl-cyclohexane were added thereto and the mixture was boiled for 23 hours on a water separator. After concentration the residue was hydrogenated with 1.5 g of Raney-nickel in 150 ml of ethanol at 120° and 140 bar for 10 hours. After chromatography over silica gel with cyclohexane/ethyl acetate 3:1 the product was dissolved in hot isopropyl ether and crystallized at room temperature. There were obtained 3.82 g (80%) of rac-cis-3-cyclohexylmethyl-1,3,3a, 4, 5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one as white crystals with m.p. 136°-137°.

reactant | ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate | 0.01525 mol, 4.0 g | COC1=C2CCC(C(C2=CC=C1)CC(=O)OCC)=O | C15H18O4
reactant | aminomethyl-cyclohexane | 0.01525 mol, 1.98 ml | NCC1CCCCC1 | C7H15N
reactant | water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-3-cyclohexylmethyl-1,3,3a, 4, 5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one | 3.82 g, 80% | C1(CCCCC1)CN1C(C[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC)=O | C20H27NO2
